US06610688B2
Synthesis of 5-[3,5-Dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-4-(3-ethynyl-phenylamino)-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 18)
The title compound (7% yield) was prepared from 4-chloro-5-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one and 3-ethynylaniline according to the procedure described for Example 12 without the conversion to HCl salt. MS 483.3 [M++1].

reactant | 4-chloro-5-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | ClC=1C2=C(N=CN1)NC(C2=CC=2NC(=C(C2C)CCCN2CCOCC2)C)=O | C20H24ClN5O2
reactant | 3-ethynylaniline | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | HCl | Cl | ClH
product | 5-[3,5-Dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-4-(3-ethynyl-phenylamino)-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 7% yield | CC1=C(NC(=C1CCCN1CCOCC1)C)C=C1C(NC=2N=CN=C(C21)NC2=CC(=CC=C2)C#C)=O | C28H30N6O2
